Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Statins-Hmg-Coa Reductase Inhibitors
 
Attending: ___
 
Chief Complaint:
Lightheadedness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
 ___ yo F PMHx HTN, HLD, CAD (MI ___ years ago s/p PCI) and 
depression presenting with lightheadedness. She lives in ___ 
but came here 6 days ago to have her ankle pain treated by a 
specialist in ___. Came to ___ to visit daughter. 
Patient states that she began feeling lightheaded yesterday when 
she was sitting talking to her friends. The lightheadedness 
persisted until today and was associated with mild nausea but no 
vomiting. She says that nothing, including rest, made it better. 
Of note, ___ years ago when she had her first "mild heart attack" 
she felt similarly (vague complaints) but it was more severe. In 
fact they didn't know she had a heart attack until 1 week later. 
She then underwent cardiac cath at ___ in ___ with 
PCI x1.  
 Patient currently only endorses mild nausea that she 
contributes to being hungry. She denies palpitations, CP, SOB, 
DOE, fevers, chills, vomiting, diarrhea, constipation, weakness, 
numbness, dizziness (sensation like room is spinning) or any 
other concerns.  
 In the ED, initial VS were: 98.2, 84, 144/93, 18, 100% RA  
 Labs showed: trop 0.05 > 0.04, K 5.2, otherwise unremarkable  
 Received:  
 ___ 16:59 IVF 1000 mL NS 500 mL  
 ___ 16:59 PO Aspirin 324 mg  
 ___ 22:13 PO Aluminum-Magnesium Hydrox.-Simethicone 30 
mL  
 ___ 22:13 PO Lidocaine Viscous 2% 10 mL  
 EKG: Sinus 76, NA, NI, No ST T changes  
 CXR:  
 Transfer VS were: afebrile, 80, 132/73, 18, 100% RA  
 
 Decision was made to admit to medicine for further management.  

 REVIEW OF SYSTEMS:  
 as per HPI  
 
Past Medical History:
 - CAD w/ MI s/p PCI  
 - Ankle pain  
 - Depression  
 - insomnia  
 - HTN  
 - HLD  
 - post menopausal hot flashes  
 - GERD  
 
Social History:
___
Family History:
 Brother: passed away of heart attack in ___  
 Brother with CAD  
 Father: passed away in ___ of MI  
 No hx stroke, DM, HTN  
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
 VS - 98.7, 169/95, 75, 18, 100% RA  
 GENERAL: NAD  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
 CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs. No JVD.  
 LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
 EXTREMITIES: WWP, no edema  
 NEURO: CN II-XII grossly intact  
 SKIN: diffuse maculopapular excoriated rash, with lesions in 
varying stages, worse over sun exposed areas.  

DISCHARGE PHYSICAL EXAM:  
VS - 98.7, 169/95, 75, 18, 100% RA  
GENERAL: NAD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs. No JVD.  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: +BS, soft, NT/ND 
EXTREMITIES: WWP, no edema. mild swelling in L UE.  
SKIN: diffuse maculopapular excoriated rash, with lesions in 
varying stages, worse over sun exposed areas.  
 
Pertinent Results:
ADMISSION LABS:
___ 03:05PM BLOOD WBC-5.7 RBC-4.08 Hgb-11.9 Hct-35.6 MCV-87 
MCH-29.2 MCHC-33.4 RDW-14.7 RDWSD-47.4* Plt ___
___ 03:05PM BLOOD Neuts-69.5 Lymphs-15.3* Monos-12.5 
Eos-2.1 Baso-0.3 Im ___ AbsNeut-3.98 AbsLymp-0.88* 
AbsMono-0.72 AbsEos-0.12 AbsBaso-0.02
___ 03:05PM BLOOD Plt ___
___ 03:05PM BLOOD Glucose-91 UreaN-19 Creat-1.0 Na-137 
K-5.2* Cl-101 HCO3-25 AnGap-16
___ 03:05PM BLOOD ALT-20 AST-43* AlkPhos-50 TotBili-0.2
___ 03:05PM BLOOD CK-MB-2 proBNP-250
___ 03:05PM BLOOD cTropnT-0.05*
___ 03:05PM BLOOD Calcium-10.0 Mg-2.1

STUDIES:
- CXR ___:
IMPRESSION: No acute cardiopulmonary process.

- CARDIAC STRESS ___:
The patient exercised for 7 minutes of a modified ___ protocol 
and
stopped for fatigue. The estimated peak MET capacity was 4.9 
which
represents an average functional capacity for her age. No arm, 
neck,
back or chest discomfort was reported by the patient throughout 
the
study. There were no significant ST segment changes during 
exercise or
in recovery. The rhythm was sinus with no ectopy. Appropriate
hemodynamic response to exercise and recovery.
IMPRESSION: No anginal type symptoms or ischemic EKG changes. 
Nuclear
report sent separately.

- CARDIAC PERFUSION PHARM ___:
FINDINGS: 
Left ventricular cavity size is normal.
Rest and stress perfusion images reveal uniform tracer uptake 
throughout the left ventricular myocardium. Gated images reveal 
normal wall motion. The calculated left ventricular ejection 
fraction is 72%.
NO prior study for comparison.
IMPRESSION: Normal myocardial perfusion following pharmacologic 
stress.

PERTINENT LABS:
___ 06:00PM BLOOD cTropnT-0.04*
___ 07:10AM BLOOD CK-MB-2 cTropnT-0.06*

DISCHARGE LABS:
___ 07:10AM BLOOD WBC-3.9* RBC-3.68* Hgb-10.7* Hct-32.4* 
MCV-88 MCH-29.1 MCHC-33.0 RDW-14.4 RDWSD-46.1 Plt ___
___ 08:50AM BLOOD ___ PTT-43.6* ___
___ 07:10AM BLOOD Plt ___
___ 07:10AM BLOOD Glucose-88 UreaN-18 Creat-1.1 Na-138 
K-4.6 Cl-104 HCO3-19* AnGap-20
___ 07:10AM BLOOD Calcium-9.3 Phos-3.0
___ 09:32AM BLOOD D-Dimer-___ yo F PMHx HTN, HLD, CAD (MI ___ years ago s/p PCI) and 
depression presenting with lightheadedness.

# Lightheadedness: unclear etiology. ?dehydration (although 
orthostatics in ED negative). trop mildly elevated from 0.05 -> 
0.04 --> 0.06, but MB 2. PE r/o'ed as D-dimer 441 and no hrt 
strain as BNP 250. Received 325 ASA given in ED and started on 
hep gtt. r/o'ed ACS, as nuclear stress test showing no anginal 
type symptoms or ischemic EKG changes. LV cavity size normal. 
Rest and stress perfusion images reveal uniform tracer uptake 
throughout the LV myocardium. LV EF 72%. 

# Nausea: Unclear etiology. DDX includes mild travelers 
gastroenteritis, hepatitis/cholecystitis (although unlikely 
given negative exam), vagal response, dehydration. 1L fluids 
given in ED. Resolved overnight. LFTs normal other than AST 43. 
Was given Zofran PRN. 

# chronic rash: DDx includes photodermatitis (induced by drug or 
autoimmune disease), Dermatitis herpetiformis (although unlikely 
without diarrhea/other GI symptoms), or polymorphic light 
eruption. 
Provided saran lotion and hydrocortisone cream PRN itching 

TRANSITIONAL ISSUES:
- please bring nuclear stress test results to your cardiologist 
appointment 
- outpatient derm to f/u chronic rash 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ramipril 0.75 mg PO BID 
2. bisoprolol fumarate 2.5 mg oral DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. B Complex 1 (vitamin B complex) unknown  oral DAILY 
6. Estradiol 1 mg PO DAILY 
7. Venlafaxine XR 150 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  B Complex 1 (vitamin B complex) unknown  ORAL DAILY  
3.  bisoprolol fumarate 2.5 mg oral DAILY  
4.  Estradiol 1 mg PO DAILY  
5.  Omeprazole 20 mg PO DAILY  
6.  Ramipril 0.75 mg PO BID  
7.  Venlafaxine XR 150 mg PO DAILY  
8.Bezafibrate  XL 400 mg QD  
9.Britizolam 5mg QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
lightheadedness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted for lightheadedness. Given your prior history 
of a silent heart attack with atypical symptoms, you were 
admitted to the hospital for further evaluateion.

You were given full dose aspirin and started on a blood thinner, 
heparin. You also underwent a nuclear stress test, which showed 
no active heart disease. 

When you go home, it is important that you continue to take your 
prescribed medications as detailed in your discharge medication 
list. It is also important that you follow-up with your 
cardiologist and provide the results from the cardiac stress 
test.  

It was a pleasure taking care of you.

Sincerely,
Your ___ Cardiology Team
 
Followup Instructions:
___